US04927838
To a stirred solution of 3-methoxythiophenolate (45 g) in water (100 mL) at 15° C. was added dropwise over 20 minutes 1-bromo-2-heptanone (54.4 g). The reaction was stirred for 1 hour at room temperature then was extracted with diethyl ether (2×250 mL) and the ether extracts were washed in turn with water (2×100 mL) and 1N hydrochloric acid (2×100 mL). The dried (MgSO4) organic layers were combined and evaporated to yield crude 1-(3-methoxyphenylthio)-2-heptanone (71 g). The crude 1-(3-methoxyphenylthio)-2-heptanone (65 g) was added over 30 minutes with stirring to sulfuric acid at -10° C. After 30 minutes at -5° C., the reaction mixture was diluted carefully with ice (200 g) and the resulting solid was filtered off, washed with water and dried. Crystallization of the crude product from hexane gave 18.4 g of 6-methoxy-3-pentylbenzo[b]thiophene, mp 43°-45° C. A small sample was recrystallized from hexane to provide the analytical specimen, mp 45°-47° C. Anal. Calcd for C14H18OS: C, 71.75; H, 7.74; S, 13.68 Found: C, 71.81; H, 7.60; S, 13.37

reactant | 1-(3-methoxyphenylthio)-2-heptanone | 65 g | COC=1C=C(C=CC1)SCC(CCCCC)=O | C14H20O2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-methoxy-3-pentylbenzo[b]thiophene | 18.4 g | COC=1C=CC2=C(SC=C2CCCCC)C1 | C14H18OS
